US09422244B2
1.05 g (1 mol equiv.) 2,3-diaza-spiro[4.4]non-2-ene (synthesized as described in WO 2008/034863) and 0.95 mL (1.3 mol equiv.) ethyl isothiocyanate were added to 10 mL ethanol. The reaction mixture was refluxed for 2.5 hours under magnetic stirring. Silica gel was added and volatiles were removed in vacuo. The product was purified by flash chromatography on silica gel (Et2O:PA=1:2) and, after evaporation of the volatiles, stirred with diisopropylether and collected by filtration to yield 0.57 g (32%) of 2,3-diazaspiro[4.4]non-3-ene-2-carbothioic acid ethylamide. 1H NMR (400 MHz, CDCl3) δ 1.24 (t, J=7.2 Hz, 3H), 1.64-1.86 (m, 8H), 3.68 (dq, J=7.2, 5.5 Hz, 2H), 4.00 (s, 2H), 6.80 (s, 1H), 7.08-7.18 (br.s., 1H).

reactant | 2,3-diaza-spiro[4.4]non-2-ene | 1 mol, 1.05 g | C1N=NCC12CCCC2 | C7H12N2
reactant | ethyl isothiocyanate | 1.3 mol, 0.95 mL | C(C)N=C=S | C3H5NS
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2,3-diazaspiro[4.4]non-3-ene-2-carbothioic acid ethylamide | 0.57 g, 32% | C(C)NC(=S)N1CC2(C=N1)CCCC2 | C10H17N3S
